US06995162B2
2-Boc-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline
4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline (150 mg) was dissolved with CH2Cl2 (3 ml) DIEA (100 ul) DMAP (208 mg and Boc2O (204 mg) and the mixture was stirred for 6 h at RT. The reaction was diluted with CH2Cl2, washed with sat'd NaHCO3 and dried over MgSO4, filtered and concentrated to provide the compound which was used without further purification.

reactant | 4,4-Dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline | 150 mg | CC1(CNCC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | Boc2O | 204 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-Boc-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline | C(=O)(OC(C)(C)C)N1CC2=CC(=CC=C2C(C1)(C)C)[N+](=O)[O-] | C16H22N2O4
